US07365192B2
10 g of pure acarbose were place into 10% TFA solution at 5% final concentration. At a reaction temperature of 100° C., it was reacted for 12 hours or more, followed by removal of TFA and water. Then, by using ion-exchange resins for purification, 2.02 g of valienamine were obtained respectively.

reactant | acarbose | 10 g | C[C@@H]1[C@H]([C@@H]([C@H]([C@H](O1)O[C@@H]2[C@H](O[C@@H]([C@@H]([C@H]2O)O)O[C@@H]3[C@H](O[C@H]([C@@H]([C@H]3O)O)O)CO)CO)O)O)N[C@H]4C=C([C@H]([C@@H]([C@H]4O)O)O)CO | C25H43NO18
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
product | valienamine | 2.02 g | C1=C([C@H]([C@@H]([C@H]([C@H]1N)O)O)O)CO | C7H13NO4
